US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester
The title compound (2.91 g, 80%) was synthesized by the reaction of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (1.72 g, 5 mmol) and [6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetic acid (2.02 g, 5 mmol) as per the procedure of Example 20. 1H NMR (500 MHz; DMSO-d6) δ 10.93 (s, 1H), 9.00 (s, 0.6H), 8.60 (s, 0.4H), 8.59 (s, 0.4H), 8.54 (s, 0.6H), 8.33(d, 1H), 8.28 (m, 1H), 8.19 (d, 1H), 7.69 (m, 2H), 7.52-7.29 (m, 10H), 6.83 (s, 1H), 5.47 (s, 1.2H), 5.37 (s, 0.8H), 4.47 (s, 0.8H), 4.18 (q, 0.8H), 4.08 (s, 1.2H), 4.03 (q, 1.2H), 3.71 (t, 1.2H), 3.61 (q, 1.2H) 3.49 (t, 0.8H) 3.42 (q, 0.8H), 1.24 (t, 1.2H), 1.13 (t, 1.8H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 5 mmol, 1.72 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | [6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetic acid | 5 mmol, 2.02 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C21H17N5O4
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetyl}-glycine ethyl ester | 2.91 g, 80% | C(C)OC(CN(C(CN1C2=NC=NC(=C2N=C1)NC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C34H32N8O7S2
